US04036828
To a solution of 0.9 grams of 3,4-dimethoxy-3-cyclobutene-1,2-dione dissolved in 10 ml. of absolute ethanol is added 1.8 grams of 1-butylpiperazine in 5 ml. of absolute ethanol. The reaction mixture is stirred overnight at room temperature under a nitrogen atmosphere. Then, the solvent is removed with a nitrogen stream, 5 ml. of anhydrous ethyl ether is added, and the resultant solid is filtered, washed with ethyl ether, and dried in air. The resulting product, 3,4-bis(4-butyl-1-piperazinyl)-3-cyclobutene-1,2-dione is obtained as white crystals melting at approximately 137.5°-139° C.

reactant | 3,4-dimethoxy-3-cyclobutene-1,2-dione | 0.9 grams | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | 1-butylpiperazine | 1.8 grams | C(CCC)N1CCNCC1 | C8H18N2
solvent | ethanol | C(C)O | C2H6O
product | 3,4-bis(4-butyl-1-piperazinyl)-3-cyclobutene-1,2-dione | C(CCC)N1CCN(CC1)C=1C(C(C1N1CCN(CC1)CCCC)=O)=O | C20H34N4O2
